US07981903B2
6-(methyloxy)-7-nitro-3,4-dihydro-2(1H)-quinolinone (485 mg, 2.18 mmol) was taken in ethyl acetate (10 mL) and methanol (50 mL). Dimethylformamide (10 mL) was added and the mixture heated to ensure dissolution. 10% palladium on carbon (581 mg, Aldrich) was added and the reaction stirred under 60 psi hydrogen pressure for 16 h. The pressure was released, the reaction vessel evacuated, and back-filled with nitrogen twice. The mixture was filtered through celite and the filtrate was concentrated to provide 7-amino-6-(methyloxy)-3,4-dihydro-2(1H)-quinolinone (387 mg, 2.02 mmol, 92%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.32-2.37 (m, 2 H), 2.66-2.72 (m, 2 H), 3.69 (s, 3 H), 4.63 (s, 2 H), 6.20 (s, 1 H), 6.60 (s, 1 H), 9.70 (s, 1 H); ESIMS (M+H)+=193.

reactant | 6-(methyloxy)-7-nitro-3,4-dihydro-2(1H)-quinolinone | 2.18 mmol, 485 mg | COC=1C=C2CCC(NC2=CC1[N+](=O)[O-])=O | C10H10N2O4
reactant | Dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium on carbon | 581 mg | [Pd] | Pd
product | 7-amino-6-(methyloxy)-3,4-dihydro-2(1H)-quinolinone | 2.02 mmol, 387 mg, 92% | NC1=C(C=C2CCC(NC2=C1)=O)OC | C10H12N2O2
